US06153757
A mixture of 0.45 g (1.0 mmol) of 3(S)-4-(4-(4-bromophenoxy)benzenesulfonyl-tetrahydro-2H-1,4-thiazine-3-carboxylic acid and 0.11 g (1.0 mmol) of 3-furan boronic acid (J. Org. Chem. 1984, 49, 5237-5243) in 2 mL of benzene, 2 mL of 2M aq. sodium carbonate, and 1.5 mL of ethanol was deoxygenated with a stream of argon for 15 minutes, and then 115 mg (0.1 mmol) of tetrakis(triphenylphosphine)palladium was added and the mixture was heated at 80° C. for six days. After cooling to room temperature, the mixture was partitioned between ethyl acetate and pH 4 citrate buffer. The aqueous layer was extracted twice with ethyl acetate, and the combined organic layers were washed with brine, dried over sodium sulfate, and concentrated. The residue was purified by chromatography on silica gel, eluting with a gradient from dichloromethane to 5% methanol in dichloromethane, to provide 3(S)-4-(4-(4-(furan-3-yl)phenoxy)benzenesulfonyl-tetrahydro-2H-1,4-thiazine-3-carboxylic acid (0.317 g, 67%) as a sticky solid foam. FAB+MS Calcd for M+Cs+ =606.0021. Obs 606.0036; 1H NMR (CDCl3) δ7.72-7.43 (m, 6H), 7.04 (d, 2H, J=8.46 Hz), 7.00 (d, 2H, J=8.82 Hz), 6.67 (s, 1H), 4.51 (s, 1H), 4.1-3.9 (bm, 1H), 3.7-3.6 (bm, 1H), 3.2-3.1 (bm, 1H), 2.42 (bd, 1H, J=12.87 Hz), 1.61 (s, 3H), 1.38 (s, 3H)

reactant | 4-(4-bromophenoxy)benzenesulfonyl-tetrahydro-2H-1,4-thiazine-3-carboxylic acid | BrC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)C2SCCNC2C(=O)O)C=C1 | C17H16BrNO5S2
reactant | 3-furan boronic acid | 1.0 mmol, 0.11 g | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
solvent | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.1 mmol, 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-(furan-3-yl)phenoxy)benzenesulfonyl-tetrahydro-2H-1,4-thiazine-3-carboxylic acid | 0.317 g, 67% | O1C=C(C=C1)C1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)C2SCCNC2C(=O)O)C=C1 | C21H19NO6S2
